US07071201B2
Example 158: Synthesis of 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-6-isobutyrylaminomethylindoline
1-[1-(4-Fluorophenethyl)piperidin-4-yl]-6-aminomethylindoline (300 mg), triethylamine (80 mg) and isobutyryl chloride (90 mg) were treated as in Example 133 to give the title compound (200 mg) as white needles (yield: 58%).

reactant | 1-[1-(4-Fluorophenethyl)piperidin-4-yl]-6-aminomethylindoline | 300 mg | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)CN)C=C1 | C22H28FN3
reactant | isobutyryl chloride | 90 mg | C(C(C)C)(=O)Cl | C4H7ClO
solvent | triethylamine | 80 mg | C(C)N(CC)CC | C6H15N
product | 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-6-isobutyrylaminomethylindoline | 200 mg, yield: 58% | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)CNC(C(C)C)=O)C=C1 | C26H34FN3O
